2200-07-08 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hyponatremia, altered mental status, ICH
   24 Hour Events:
   Got 400 ml NS, Na 115 --- 116, stopped NS and started hypertonic saline
   3% at 32 mg/hr
   Patient now much more awake and alert and indicates that she had
   trouble with her vision and felt lightheaded before she fell. She may
   have had LOC but is unclear on this.
   History obtained from Patient
   Allergies:
   History obtained from PatientLevofloxacin
   Unknown;
   Metronidazole
   Unknown;
   Alendronate Sodium
   Unknown;
   Risedronate Sodium
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes:  Blurry vision
   Pain: [**4-23**] Moderate
   Pain location: left hip with movement
   Flowsheet Data as of  [**2200-7-8**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 70 (70 - 70) bpm
   BP: 110/48(61) {96/47(59) - 111/55(67)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
             Total In:
             490 mL
   PO:
             TF:
   IVF:
   490 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    260 mL
   Urine:
   260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, EOMI, unable to see clearly 2 fingers at
   close distance
   Head, Ears, Nose, Throat: Normocephalic, No(t) OG tube, bruising left
   temporal and posterior head
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, season, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   150 K/uL
   10.8 g/dL
   129 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   13 mg/dL
   86 mEq/L
   116 mEq/L
   32.5 %
   12.2 K/uL
        [image002.jpg]
                             [**2200-7-8**]  04:23 AM
   WBC
   12.2
   Hct
   32.5
   Plt
   150
   Cr
   0.6
   Glucose
   129
   Other labs: PT / PTT / INR:14.7/26.4/1.3, Differential-Neuts:92.8 %,
   Lymph:3.2 %, Mono:3.1 %, Eos:0.8 %, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   87 y/o F w/ PNET tumor undergoing palliative radiation, hyponatremia,
   afib on coumadin and recent fall presenting from OSH small punctate
   intracranial hemorrhage and hyponatremia.
   1) Punctate Intracranial Hemorrhage: likely in setting of being on
   anticoagulation and getting XRT as it is near the tumor mass and may be
   the result of a tumor related aneurym.
   -- apprec NSURG advice
   -- hold warfarin for 7 days
   -- patient already received 10 mg IV vit K
   -- cont antiseizure medications
   2) Hyponatremia: pt with hx prior adrenal mass resection for benign
   cause, on fludrocort at [**Hospital1 586**] in past 2 month, ? adrenal pathology as
   cause, vs brain XRT SIADH, vs pt dehydrated vs AED effect. Posm 246,
   Uosm 436. Random cortisol 4.
   -- check Ulytes - pending
   -- restart fludrocort in am, pending confirmation at [**Hospital1 586**]
   -- hypertonic saline 3% at 32 mg /hr.--- STOP if NA > 122, and then
   recheck
   -- previously on spironolactone (perhaps to counteract hypoK found with
   fludrocort?), will hold given unclear reason for med
   3) Intracranial Mass: 1.7 cm in left insula, primative neuroectodermal
   tumor (PNET), s/p craniotomy, getting palliative XRT
   -- cont decradron
   -- discuss with onc at OSH
   -- palliative care c/s
   -- Bactrim DS every other day, due [**7-9**] given on decadron
   4) Seizure d/o: cont keppra, clarify dose of carbamazepime and start in
   PM
   5) Hypothyroidism:
   -- start synthroid 25 mcg daily
   6) Afib s/p ablation and placement of cardiac pacer ([**2197**]),
   sub-therapeutic on presentation INR 1.3
   -- on Imdur for unclear reason, last received [**7-7**], if pressures
   tolerate will restart [**7-8**]
   -- hold coumadin given bleed as above
   7) Left Pubic Ramus Fx: conservative management, weight bearing as
   tolerated
   -- tylenol prn for pain
   8) Resection adrenal mass, benign ([**2183**]): pm cortisol 4, which is
   non-specific
   -- get records from [**Hospital1 586**]
   9) Restless Legs
   -- cont Gabapentin 100 mg QPM
   10) Constipation: bowel regimen
   11) Nausea: improved this am, felt to be related to intracranial
   pressure, patient on both PPI and H2 blocker:
   -- cont iv PPI
   -- cont decadron
   12) Osteoporosis:
   --restart oscal + D as soon as able to take PO
   -- Vit D 50,000 unit once monthly, last given [**6-26**]
   13) Hyperglycemia: on decadron, trend BG, treat if > 200
   14) Leukocytosis: neg CXR, equivocal UA, may be due to ICH and/or fall.
   Improving.
   -- trend
   -- CIS
   -- sent Ucx
   15) Anemia: chronic, cont to trend, wnl MCV and RDW likely ACD.
   ICU Care
   Nutrition: PO diet, passes S&S
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-7-8**] 12:37 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU, consider transfer to [**Hospital1 586**] given patient recieves her
   care there

2200-07-09 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Hyponatremia corrected with fluid restriction and hypertonic saline to
   122.
   -After 3% held, Na trended back down to 117.
   -[**Hospital1 586**] outpt notes document Na of 116-120 as outpt.
   -Ortho recs for posterior pubic ramus fx are weight bearing as
   tolerated, PT/OT which was consulted.
   - Regarding tumor + hemorrhage, Neurosurg recommended holding coumadin
   for 7 days and reversing coumadin with vit K.  Only one dose was given
   since bleed was small.
   -Tegretol started at 200mg [**Hospital1 **]
   Spoke to OSH onc; had not been Fludrocort; brain lesion and sodium
   stable.
   Seen by palliative care- they don't think she is ready for hospice
   after speaking with family.
   - CT head yesterday final read:
   Unchanged appearance of intracranial abnormalities. As stated
   previously, they may represent the known tumor and/or sequela of
   therapy, with
   a small focus of associated blood products. Detailed record of prior
   tumor
   treatment and comparison with previous studies is needed for a more
   meaningful
   interpretation. If indicated, MRI with gadolinium would provide more
   information about the tumor.
   - CT L spine from yesterday: no acute fx
   1. Transitional anatomy at the thoracolumbar and lumbosacral junctions,
   as
   detailed above. If surgery is contemplated, then accurate vertebral
   numbering
   should be obtained by radiographs of the entire spine.
   2. Mild deformity of L1 vertebral body, without definite acute fracture
   lines, but of unknown chronicity. No evidence of L5 vertebral body
   fracture.
   3. Grade 1 anterolisthesis of L4 on L5 with corticated bilateral L4
   pars
   defects, which appears chronic.
   4. 3 mm non-obstructing left renal stone. Cystic lesions in the liver
   and
   left kidney, incompletely characterized. Sigmoid diverticulosis.
   Allergies:
   Levofloxacin
   Unknown;
   Metronidazole
   Unknown;
   Alendronate Sodium
   Unknown;
   Risedronate Sodium
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-7-8**] 08:00 AM
   Other medications:
   Acetaminophen 2. Bisacodyl 3. Calcium Carbonate 4. Carbamazepine 5.
   Dexamethasone 6. Gabapentin
   7. Isosorbide Mononitrate (Extended Release) 8. LeVETiracetam 9.
   Levothyroxine Sodium 10. Ondansetron
   11. Pantoprazole 12. Pneumococcal Vac Polyvalent 13.
   Sulfameth/Trimethoprim DS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-7-9**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 70) bpm
   BP: 104/53(66) {91/45(58) - 124/88(98)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,356 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                    876 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    330 mL
   Urine:
                                                                    780 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    576 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Gen: Alert, ox3
   CV: rrr nl s1/s2 no murmurs
   Pulm: CTA b/l
   Abd: +BS soft NT
   Ext: +ROM at left hip with 4/5 anterior and posterior strength of left
   leg
   Labs / Radiology
   134 K/uL
   9.0 g/dL
   145 mg/dL
   0.7 mg/dL
   21 mEq/L
   5.0 mEq/L
   16 mg/dL
   92 mEq/L
   118 mEq/L
   27.1 %
   10.3 K/uL
        [image002.jpg]
                             [**2200-7-8**]  04:23 AM
                             [**2200-7-8**]  10:33 AM
                             [**2200-7-8**]  01:43 PM
                             [**2200-7-8**]  05:56 PM
                             [**2200-7-8**]  10:05 PM
                             [**2200-7-9**]  02:43 AM
   WBC
   12.2
   10.3
   Hct
   32.5
   27.1
   Plt
   150
   134
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   0.7
   TropT
   0.01
   Glucose
   129
   139
   136
   145
   Other labs: PT / PTT / INR:12.7/25.8/1.1, CK / CKMB /
   Troponin-T:113/5/0.01, Differential-Neuts:92.8 %, Lymph:3.2 %, Mono:3.1
   %, Eos:0.8 %, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: urine lytes
   Creat:70 (71)
   Na:15 (36)
   Osmolal:457 (527)
   Microbiology: Uctx [**7-8**] pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   87 y/o F w/ PNET tumor undergoing palliative radiation, hyponatremia,
   afib on coumadin and recent fall presenting from OSH small punctate
   intracranial hemorrhage and hyponatremia.
   1) Punctate Intracranial Hemorrhage: likely in setting of being on
   anticoagulation and getting XRT as it is near the tumor mass and may be
   the result of a tumor related aneurym.
   -- apprec NSURG advice: they are signing off since Hct stable at 28.6
   -- hold warfarin for 7 days
   -- patient already received 10 mg IV vit K
   -- cont antiseizure medications
   -- repeat head CT yesterday stable
   2) Hyponatremia: pt with hx prior adrenal mass resection for benign
   cause,? adrenal pathology as cause, vs brain XRT SIADH, vs pt
   dehydrated vs AED effect. Posm 246, Uosm 436. Random cortisol 4.
   -- will not start fludrocort as she has not been on it in the recent
   past at [**Hospital1 586**] at Na to 121
   -- check pm lytes
   -- previously on spironolactone (perhaps to counteract hypoK found with
   fludrocort?), will hold given unclear reason for med
   3) Intracranial Mass: 1.7 cm in left insula, primative neuroectodermal
   tumor (PNET), s/p craniotomy, getting palliative XRT
   -- cont decradron
   -- Bactrim DS every other day, due [**7-9**] given on decadron
   -- contact neuro [**Name2 (NI) 7913**] today to be sure they are aware that XRT
   currently being held
   4) Seizure d/o: cont keppra, cont carbamazepime 200mg [**Hospital1 **]
   5) Hypothyroidism:
   -- started synthroid 25 mcg daily
   6) Afib s/p ablation and placement of cardiac pacer ([**2197**]),
   sub-therapeutic on presentation INR 1.3
   -- on Imdur for unclear reason, last received [**7-7**], d/c
d on [**2200-7-9**]
   because of hypotension and unknown reason for use
   -- hold coumadin given bleed as above
   7) Left Pubic Ramus Fx: conservative management, weight bearing as
   tolerated
   -- tylenol prn for pain
   -- PT
   8) Resection adrenal mass, benign ([**2183**]): pm cortisol 4, which is
   non-specific
   -- get records from [**Hospital1 586**]
   9) Restless Legs
   -- cont Gabapentin 100 mg QPM
   10) Constipation: bowel regimen
   11) Nausea: improved this am, felt to be related to intracranial
   pressure, patient on both PPI and H2 blocker:
   -- change to PO PPI
   -- cont decadron
   12) Osteoporosis:
   --restart oscal + D
   -- Vit D 50,000 unit once monthly, last given [**6-26**]
   13) Hyperglycemia: on decadron, trend BG, treat if > 200
   14) Leukocytosis: neg CXR, equivocal UA, may be due to ICH and/or fall.
   Improving.
   -- trend
   -- CIS
   -- likely [**1-20**] to UTI
   15) Anemia: chronic, cont to trend, wnl MCV and RDW likely ACD.
   16) GNR urine: start Cefpodoxime Proxetil 100 mg PO Q12H; D1 = [**7-9**];
   planned 7 day course
   -chosen antibiotic after discussion with pharmacy so as to not
   interfere with sodium or neuro meds
   -f/u final culture
   17) Thrombocytopenia: unclear etiology; minor change from baseline,
   continue to monitor in am
   ICU Care
   Nutrition: PO diet, passed S&S
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-7-8**] 12:37 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  ppi (home med)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), DNI
   Disposition: c/o today

2200-07-10 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Rad Onc would like her to start getting XRT this Monday
   - Got sensitivities from urine culture from OSH. Does not specifically
   say sensitive to Cefpodoxime.
   [**First Name9 (NamePattern2) 5551**] [**Last Name (un) 46**] to Cefoxitin, Cefuroxine (2^nd gen)
   Res to Cephalothin (1^st gne)
   [**Last Name (un) **] to Gent, Imi, Nitrofurantoin, Pip/Tazo
   Res to Amp, Amp/Sulb, Cipro, Levo, Tetra, Bactrim
   Please curbside ID [**6-30**] and make sure our antibiotic choice is
   appropriate given known sensitivities.
   -seen by renal- no new recs: fluid restriction
   -saw palliative care yesterday; no further intervention at this time
   Allergies:
   Levofloxacin
   Unknown;
   Metronidazole
   Unknown;
   Alendronate Sodium
   Unknown;
   Risedronate Sodium
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Acetaminophen 2. Bisacodyl 3. Calcium Carbonate 4. Carbamazepine 5.
   Cefpodoxime Proxetil 6. Dexamethasone
   7. Gabapentin 8. Levothyroxine Sodium 9. LeVETiracetam 10. Miconazole
   Powder 2% 11. Neutra-Phos
   12. Ondansetron ODT 13. Pantoprazole 14. Pneumococcal Vac Polyvalent
   15. Sulfameth/Trimethoprim DS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-7-10**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 70 (70 - 70) bpm
   BP: 133/74(87) {105/43(57) - 140/76(107)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
                  Total In:
                                                                    580 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    390 mL
   Urine:
                                                                  1,210 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -630 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   139 K/uL
   8.7 g/dL
   134 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.4 mEq/L
   16 mg/dL
   90 mEq/L
   122 mEq/L
   25.1 %
   8.6 K/uL
        [image002.jpg]
   More recent: 119/4.6/91/25/17/0.6<121; Ca 7.7, Mg 1.8, Phos 2.4
                             [**2200-7-8**]  04:23 AM
                             [**2200-7-8**]  10:33 AM
                             [**2200-7-8**]  01:43 PM
                             [**2200-7-8**]  05:56 PM
                             [**2200-7-8**]  10:05 PM
                             [**2200-7-9**]  02:43 AM
                             [**2200-7-9**]  08:34 AM
                             [**2200-7-9**]  02:12 PM
                             [**2200-7-10**]  05:42 AM
   WBC
   12.2
   10.3
   8.6
   Hct
   32.5
   27.1
   28.6
   25.1
   Plt
   150
   134
   139
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   0.7
   0.9
   TropT
   0.01
   Glucose
   129
   139
   136
   145
   134
   Other labs: PT / PTT / INR:12.7/25.8/1.1, CK / CKMB /
   Troponin-T:113/5/0.01, Differential-Neuts:92.8 %, Lymph:3.2 %, Mono:3.1
   %, Eos:0.8 %, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   87 y/o F w/ PNET tumor undergoing palliative radiation, hyponatremia,
   afib on coumadin and recent fall presenting from OSH small punctate
   intracranial hemorrhage and hyponatremia.
   #  Punctate Intracranial Hemorrhage: likely in setting of being on
   anticoagulation and getting XRT as it is near the tumor mass and may be
   the result of a tumor related aneurym.
   -- apprec NSURG advice: they signed off given yesterdays stable Hct
   -- hold warfarin for 7 days ([**7-8**] first day without)
   -- cont antiseizure medications
   # Hyponatremia: pt with hx prior adrenal mass resection for benign
   cause,? adrenal pathology as cause, vs brain XRT SIADH, vs pt
   dehydrated vs AED effect. Posm 246, Uosm 436. Random cortisol 4.
   -- can d/c foley now that stable
   -- will not start fludrocort as she has not been on it in the recent
   past at [**Hospital1 586**]
   -- previously on spironolactone (perhaps to counteract hypoK found with
   fludrocort?), will hold given unclear reason for med
   # Intracranial Mass: 1.7 cm in left insula, primative neuroectodermal
   tumor (PNET), s/p craniotomy, getting palliative XRT
   -- cont decradron
   -- Bactrim DS every other day, due [**7-9**] given on decadron
   -- to resume XRT Monday
   # Leukocytosis: neg CXR, equivocal UA, may be due to ICH and/or fall.
   Improving.
    -- trend
   -- CIS
   -- likely [**1-20**] to UTI
   # Anemia: chronic, cont to trend, wnl MCV and RDW likely ACD.
   --  recheck in pm
   # GNR urine: start Cefpodoxime Proxetil 100 mg PO Q12H; D1 = [**7-9**];
   planned 7 day course
   -chosen antibiotic after discussion with pharmacy so as to not
   interfere with sodium or neuro meds
   -final [**Last Name (un) 46**] received, did not do to Cefpodox
   # Thrombocytopenia: unclear etiology; minor change from baseline,
   stable
   # Seizure d/o: cont keppra, cont carbamazepime 200mg [**Hospital1 **]
   # Hypothyroidism:
   -- started synthroid 25 mcg daily
   # Afib s/p ablation and placement of cardiac pacer ([**2197**]),
   sub-therapeutic on presentation INR 1.3
   -- on Imdur for unclear reason, last received [**7-7**], d/c
d on [**2200-7-9**]
   because of hypotension and unknown reason for use
   -- hold coumadin given bleed as above
   # Left Pubic Ramus Fx: conservative management, weight bearing as
   tolerated
   -- tylenol prn for pain
   -- PT
   # Resection adrenal mass, benign ([**2183**]): pm cortisol 4, which is
   non-specific
   # Restless Legs
   -- cont Gabapentin 100 mg QPM
   # Constipation: bowel regimen
   # Nausea: improved this am, felt to be related to intracranial
   pressure, patient on both PPI and H2 blocker:
   --  PO PPI
   -- cont decadron
   # Osteoporosis:
   -- oscal + D
   -- Vit D 50,000 unit once monthly, last given [**6-26**]
   # Hyperglycemia: on decadron, trend BG, treat if > 200
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-7-8**] 12:37 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: call out

2200-07-11 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events on issues.  Called out.
   Allergies:
   Levofloxacin
   Unknown;
   Metronidazole
   Unknown;
   Alendronate Sodium
   Unknown;
   Risedronate Sodium
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-7-11**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 70 (70 - 70) bpm
   BP: 127/69(81) {103/43(59) - 137/75(122)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
                  Total In:
                                                                    360 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    922 mL
                                                                    200 mL
   Urine:
                                                                    922 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   9.5 g/dL
   121 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.6 mEq/L
   17 mg/dL
   91 mEq/L
   122 mEq/L
   28.7 %
   7.8 K/uL
        [image002.jpg]
                             [**2200-7-8**]  10:33 AM
                             [**2200-7-8**]  01:43 PM
                             [**2200-7-8**]  05:56 PM
                             [**2200-7-8**]  10:05 PM
                             [**2200-7-9**]  02:43 AM
                             [**2200-7-9**]  08:34 AM
                             [**2200-7-9**]  02:12 PM
                             [**2200-7-10**]  05:42 AM
                             [**2200-7-10**]  05:27 PM
                             [**2200-7-11**]  04:13 AM
   WBC
   10.3
   8.6
   7.8
   Hct
   27.1
   28.6
   25.1
   31.9
   28.7
   Plt
   134
   139
   174
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.9
   0.6
   TropT
   0.01
   Glucose
   139
   136
   145
   134
   121
   Other labs: PT / PTT / INR:11.6/24.0/1.0, CK / CKMB /
   Troponin-T:113/5/0.01, Differential-Neuts:92.8 %, Lymph:3.2 %, Mono:3.1
   %, Eos:0.8 %, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   87 y/o F w/ PNET tumor undergoing palliative radiation, hyponatremia,
   afib on coumadin and recent fall presenting from OSH small punctate
   intracranial hemorrhage and hyponatremia.
   #  Punctate Intracranial Hemorrhage: likely in setting of being on
   anticoagulation and getting XRT as it is near the tumor mass and may be
   the result of a tumor related aneurym.
   -- apprec NSURG advice: they signed off given yesterdays stable Hct
   -- hold warfarin for 7 days ([**7-8**] first day without)
   -- cont antiseizure medications
   # Hyponatremia: pt with hx prior adrenal mass resection for benign
   cause,? adrenal pathology as cause, vs brain XRT SIADH, vs pt
   dehydrated vs AED effect. Posm 246, Uosm 436. Random cortisol 4.
   --Na stable between 119 and 122
   -- will not start fludrocort as she has not been on it in the recent
   past at [**Hospital1 586**]
   -- previously on spironolactone (perhaps to counteract hypoK found with
   fludrocort?), will hold given unclear reason for med
   # Intracranial Mass: 1.7 cm in left insula, primative neuroectodermal
   tumor (PNET), s/p craniotomy, getting palliative XRT
   -- cont decradron
   -- Bactrim DS every other day, due [**7-9**] given on decadron
   -- to resume XRT Monday
   # E coli UTI: start Cefpodoxime Proxetil 100 mg PO Q12H; day 3 of 7 day
   course  (D1 = [**7-9**])
   -chosen antibiotic after discussion with pharmacy so as to not
   interfere with sodium or neuro meds
   -final [**Last Name (un) 46**] received, did not do to Cefpodox
   -send UA, Ucx today.
   # Left Pubic Ramus Fx: conservative management, weight bearing as
   tolerated
   -- tylenol prn for pain
   -- PT
   # Leukocytosis: neg CXR, equivocal UA, may be due to ICH and/or fall.
   Improving.
   --resolved
   -- trend
   -- CIS
   -- likely [**1-20**] to UTI
   # Anemia: chronic, cont to trend, wnl MCV and RDW likely ACD.
   --  recheck in pm
   # Thrombocytopenia: unclear etiology; minor change from baseline,
   stable
   # Seizure d/o: cont keppra, cont carbamazepime 200mg [**Hospital1 **]
   # Hypothyroidism:
   -- started synthroid 25 mcg daily
   # Afib s/p ablation and placement of cardiac pacer ([**2197**]),
   sub-therapeutic on presentation INR 1.3
   -- on Imdur for unclear reason, last received [**7-7**], d/c
d on [**2200-7-9**]
   because of hypotension and unknown reason for use
   -- hold coumadin given bleed as above
   # Resection adrenal mass, benign ([**2183**]): pm cortisol 4, which is
   non-specific
   # Restless Legs
   -- cont Gabapentin 100 mg QPM
   # Constipation: bowel regimen
   # Nausea: improved this am, felt to be related to intracranial
   pressure, patient on both PPI and H2 blocker:
   --  PO PPI
   -- cont decadron
   # Osteoporosis:
   -- oscal + D
   -- Vit D 50,000 unit once monthly, last given [**6-26**]
   # Hyperglycemia: on decadron, trend BG, treat if > 200
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-7-8**] 12:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to floor